US07902181B2
c) (S)-tert-Butyl 2-((S)-1-amino-3-(4-iodophenyl)-1-oxopropan-2-ylcarbamoyl)piperidine-1-carboxylate
4-Iodo-(L)-phenylalaninamide (2 g), (2S)-1-(tert-butoxycarbonyl)piperidine-2-carboxylic acid (2.4 g) and disopropylethylamine (3 mL) were dissolved in DMF (10 mL) and to the solution was added 2-(1-H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (3.3 g). The reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with diethyl ether (200 mL) then washed with water (250 mL) and brine (4×250 mL). The organics were dried over magnesium sulfate, filtered and concentrated in vacuo. Crude product was purified by flash silica chromatography eluting with ethyl acetate to give the sub-title compound (2.88 g) as an oil.

reactant | 4-Iodo-(L)-phenylalaninamide | 2 g | IC1=CC=C(C[C@H](N)C(=O)N)C=C1 | C9H11IN2O
reactant | (2S)-1-(tert-butoxycarbonyl)piperidine-2-carboxylic acid | 2.4 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)C(=O)O | C11H19NO4
reactant | 2-(1-H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 3.3 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | (S)-tert-Butyl 2-((S)-1-amino-3-(4-iodophenyl)-1-oxopropan-2-ylcarbamoyl)piperidine-1-carboxylate | 2.88 g | NC([C@H](CC1=CC=C(C=C1)I)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C)=O | C20H28IN3O4
